US06660744B1
To a stirred solution of 3-(4-amino-3-methoxyphenyl)-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (Intermediate AP) (0.31 g, 0.00071 mol) and benzoyl chloride (0.105 g, 0.00075 mol) in anhydrous dichloromethane (10 mL) N-ethyl-N,N-diisopropylamine (0.11 g, 0.00085 moL) was added dropwise over a 5 min. period. The stirring under nitrogen was continued for an additional 4 hours, the solvent was removed under reduced pressure and the residue was partitioned between ethyl acetate (30 mL) and water (25 mL). The organic phase was dried with magnesium sulfate and concentrated under the reduced pressure to yield a yellow oil which was purified by flash column chromatography on silica using dichloromethane/triethylamine/methanol (94:5:1) as a mobile phase to give trans-N-{4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl}benzamide as a white solid (0.250 g, 0.00045 mol). It was dissolved in refluxing ethanol (17 mL) and a preheated solution of maleic acid (0.155 g, 0.00133 mol) in ethanol (8 mL) was added. The mixture was refluxed for 10 min, cooled to ambient temperature and the precipitate collected by filtration, washed with ethyl acetate and dried to give trans—N-{4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl }-2-methoxyphenyl}benzamide dimaleate as a white solid (0.196 g, 0.000254 mol):

reactant | 3-(4-amino-3-methoxyphenyl)-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00071 mol, 0.31 g | NC1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C2CCC(CC2)N2CCN(CC2)C)OC | C23H32N8O
reactant | benzoyl chloride | 0.00075 mol, 0.105 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 10 mL, 0.11 g | ClCCl | CH2Cl2
product | trans-N-{4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl}benzamide | 0.00045 mol, 0.250 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(C2=CC=CC=C2)=O)OC)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C30H36N8O2
